US09120749B2
(6-bromo-4-(6-(2-hydroxyethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (311 mg, 1 mmol) was reacted with 2-(5-aminopyridin-2-ylamino)ethanol (230 mg, 1.5 mmol) to afford the desired product (287 mg, 67%) as a yellow solid: ESI MS m/z 427 [C20H19BrN4O2+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 1 mmol, 311 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 2-(5-aminopyridin-2-ylamino)ethanol | 1.5 mmol, 230 mg | NC=1C=CC(=NC1)NCCO | C7H11N3O
product | (6-bromo-4-(6-(2-hydroxyethylamino)pyridin-3-ylamino)quinolin-3-yl)(cyclopropyl)methanone | 287 mg, 67% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)NCCO | C20H19BrN4O2
